US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[4-(dimethylaminosulfonyl)benzoyl]-1,2-benzenediamine
Using the procedure described in Example 55, Part B, N1-(4-methoxybenzoyl)-1,2-benzenediamine (534 mg, 2.21 mmol) was reacted with 4-(dimethylaminosulfonyl)benzoic acid (534 mg, 2.33 mmol) to yield 349 mg (35%) of the title compound.

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 2.21 mmol, 534 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | 4-(dimethylaminosulfonyl)benzoic acid | 2.33 mmol, 534 mg | CN(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C9H11NO4S
product | N1-(4-Methoxybenzoyl)-N2-[4-(dimethylaminosulfonyl)benzoyl]-1,2-benzenediamine | 349 mg, 35% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)S(=O)(=O)N(C)C)=O)C=C1 | C23H23N3O5S
